data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,825,"C=CC(C)=O.CCCCCC1CC(=O)[C:1]([C:2](OC)=[O:3])=[CH:4][CH:5]([H:6])C1.C[O-:7].[H][H].[Na+]|(7, 6);((6, 5), 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,8302,"CCC(=O)O[C+:1]1C=CC=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2621,"COC1=C(O)C2=C(C=C1)CC1NCCC23C=C(O)C([O:1]C)CC13.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,384,"OCC[OH:1].O[C+:2]1CCCCC1|(1, 2)"
train,pmechdb_split_0,0,5763,"BrC(Br)Br.CC(CCBr)C[CH2:1][O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,8405,"CCC(C)[O+:1]([Si-](C)(C)(C)Cl)[H:2].CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9652,"C=CCC[OH+][P:1](Cl)(Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7628,"CC1=CCCC[N:1]1C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3995,"CC1=CC=C(S(=O)(=O)[O-])C=C1.OC1=C([O:1][C:2]2([OH2+:3])CCCCC2)C=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9633,"CC1=CC=C(S(=O)(=O)[O:1][CH:2](C)CCO)C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9145,"CCCO[C:1](CCC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8704,"CC(=O)[O-:1].CC[O+:2](S(C)(C)OC(=NC)NC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10138,"C[C:1](C)([Cl:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8101,"O=S(=O)(O)[O-:1].OCCCCCC(CO)[O+:2](CCCCCC1CO1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9168,"CC(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][Li:2].[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,850,"C1=CC=C([NH2+:1][H:2])C=C1.FC1=C(C(NC2=CC=CC=C2)[O-:3])C=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4260,"CCC[CH2][Al-:1]([CH2]C(C)C)([CH2]C(C)C)[H:2].C[C:3](C=CC1=CC=CC=C1)=[O:4].[Li+]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2932,"C1CCOC1.COC1=C(Br)C(C(OCCCO)[OH+:1][H:2])=C(OC)C=C1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8621,"CC(C)(O)[S+:1](CCS)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4418,"CC(C(C)C)=[O:1].CC(C)[N](C(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,8076,"CC(C)CC(CC1CCCCC1)[O-:1].CCC[CH2][Al]([CH2]C(C)C)[CH2]C(C)C.[H:2][OH:3].[Li+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9349,"CC(C)CO[C:1](Cl)([NH3+:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1738,"CCC(C)[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7927,"COC1=[C:1]([N+:2]#N)C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,9728,"FC(F)(F)C1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5594,"O[CH:1]([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6229,"CCOC(=O)C(C)C(=O)[O:1][CH2:2]C.N#[C-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,943,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2][CH:3]2C[CH2:4]2)C=C1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6094,"CC(=O)O[Si-:1](C)(C)(C)[OH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,998,"C1C[N:1]2CCN1CC2.CCO[C:2](=[O:3])[CH:4]=[CH2:5].COC1=C(C=O)C=CC=C1.O=CC1=CC=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,10311,"CC(OC(C)[C:1](C[N+](C)(C)C)=[CH:2][O-:3])[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2878,"COC(=O)N([P+](C)(C)C)[N:1]([H:2])[C:3](OC)=[O:4].[N-]=[N+]=[N-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9067,"COC1C2C=CC1[C:1](=[O:2])C2.C[S+](C)(=O)[CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5371,"C[C:1](C)([Cl:2])[Br:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3122,"CC(=O)[O-:1].CC1=C[CH:2]([H:3])[C:4](C)=[N+:5]1CCO.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,10154,"CO[P+:1](O)(OC)[O:2][C:3](C)(N=[N+]=[N-])[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,898,"C[CH:1]=[O:2].O=[N+]([O-])[CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1168,"CCC([O-])[O+:1](C)[Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4980,"C1=CC=C([NH:1][N:2]=[O:3])C=C1.[H:4][Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,492,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.COC1=C(CC2CCC(O)([O:3]C)O2)C=CC(C)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,794,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C1=C2C=CC=CC(OCC)=C2C=C1C(C[C:1](C1=CC=C(OC)C=C1)=[OH+:2])C(C)=[O:3].CN(C)C=O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2301,"CC[C:1](=[O:2])[CH:3]=[CH:4]C.O[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4149,"C=C[C:1]#[N+:2]C1CCCCC1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9404,"C=CC[OH:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7985,"C1=C[CH:1]=[CH:2]C=C1.O=C(CC[C+:3]=O)[O][Al-]([Cl])([Cl])[Cl]|((2, 1), 3)"
train,pmechdb_split_0,0,7088,"C[C:1](C)([CH2:2]C=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6978,"CN(C)[C+:1]1C=C[C:2](N=NC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[Cl-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,1751,"C[N:1](C)CCCCOS(=O)(=O)C(F)(F)F.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
